US08703784B2
To a solution of 7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-fluoroquinolin-3-yl)pyrazolo[1,5-a]pyrimidine-5-carbaldehyde (11.0 g, 19.4 mmol) in anhydrous THF (200 mL, 2 mol) under nitrogen at 0° C. was added 3M methylmagnesium bromide in ether (9.69 mL, 29.0 mmol) dropwise. After 1 hour the reaction was complete by HPLC. Water (10 mL) was added over a 15 minute period to quench the reaction. Removed the flask from the ice bath and concentrated in vacuo. Dissolved the remaining residue in ethyl acetate, washed three times with water and then twice with brine. The organics were dried over sodium sulfate, filtered and concentrated in vacuo. Purified the remaining crude material by flash chromatography (5-40% EtOAc/hex) to afford 1-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-fluoroquinolin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)ethanol (6.8 g; 60% yield) as a yellow solid. HPLC: 7.54 min (Method C). LCMS: ESI+ m/z of 584 (M+H)

reactant | 7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-fluoroquinolin-3-yl)pyrazolo[1,5-a]pyrimidine-5-carbaldehyde | 19.4 mmol, 11.0 g | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2C=2C=NC1=CC=C(C=C1C2)F)C=O)COCC[Si](C)(C)C)(C)C | C28H38FN5O3Si2
reactant | THF | 2 mol, 200 mL | C1CCOC1 | C4H8O
reactant | methylmagnesium bromide | 3M | C[Mg]Br
reactant | ether | 29.0 mmol, 9.69 mL | CCOCC | C4H10O
solvent | Water | 10 mL | O | H2O
product | 1-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-fluoroquinolin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)ethanol | 6.8 g, 60% yield | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2C=2C=NC1=CC=C(C=C1C2)F)C(C)O)COCC[Si](C)(C)C)(C)C | C29H42FN5O3Si2
